************************************************************************
* auCdl Netlist:
* 
* Library Name:  MS3
* Top Cell Name: SECDED
* View Name:     schematic
* Netlisted on:  May  3 19:19:21 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: MS3
* Cell Name:    nor3
* View Name:    schematic
************************************************************************

.SUBCKT nor3 A B out C
*.PININFO A:I B:I C:I out:O
MMN2 out C gnd! gnd! nfet W=591n L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 PTWELL=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN1 out B gnd! gnd! nfet W=591n L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 PTWELL=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN0 out A gnd! gnd! nfet W=591n L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 PTWELL=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP2 net016 C vdd! vdd! pfet W=4.454u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP1 out B net13 vdd! pfet W=4.454u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP0 net13 A net016 vdd! pfet W=4.454u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    inv_1b
* View Name:    schematic
************************************************************************

.SUBCKT inv_1b IN OUT
*.PININFO IN:I OUT:O
MMP0 OUT IN vdd! vdd! pfet W=2.904u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN0 OUT IN gnd! gnd! nfet W=1.32u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    or3
* View Name:    schematic
************************************************************************

.SUBCKT or3 A B C OUT
*.PININFO A:I B:I C:I OUT:O
XI0 A B net9 C / nor3
XI1 net9 OUT / inv_1b
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    xor2
* View Name:    schematic
************************************************************************

.SUBCKT xor2 B C out
*.PININFO B:I C:I out:O
MMN4 net27 C gnd! gnd! nfet W=1.32u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN1 out B net27 gnd! nfet W=1.32u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN0 B net27 out gnd! nfet W=1.32u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMP1 out B C vdd! pfet W=2.904u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 pccrit=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 panw1=0p 
+ panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p panw9=0p 
+ panw10=0p
MMP0 B C out vdd! pfet W=2.904u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 pccrit=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 panw1=0p 
+ panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p panw9=0p 
+ panw10=0p
MMP4 net27 C vdd! vdd! pfet W=2.904u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 A B out
*.PININFO A:I B:I out:O
MMP0 out A vdd! vdd! pfet W=2.665u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP1 out B vdd! vdd! pfet W=2.665u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN0 out A net16 gnd! nfet W=2.45u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN1 net16 B gnd! gnd! nfet W=2.45u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    and2
* View Name:    schematic
************************************************************************

.SUBCKT and2 A B OUT
*.PININFO A:I B:I OUT:O
XI5 net1 OUT / inv_1b
XI4 A B net1 / nand2
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    nand3
* View Name:    schematic
************************************************************************

.SUBCKT nand3 A B C out
*.PININFO A:I B:I C:I out:O
MMP2 out C vdd! vdd! pfet W=2.665u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP1 out B vdd! vdd! pfet W=2.665u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP0 out A vdd! vdd! pfet W=2.665u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN2 net14 C gnd! gnd! nfet W=2.45u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN1 net15 B net14 gnd! nfet W=2.45u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
MMN0 out A net15 gnd! nfet W=2.45u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    and3
* View Name:    schematic
************************************************************************

.SUBCKT and3 A B C OUT
*.PININFO A:I B:I C:I OUT:O
XI1 net1 OUT / inv_1b
XI0 A B C net1 / nand3
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    mux
* View Name:    schematic
************************************************************************

.SUBCKT mux A C OUT
*.PININFO A:I C:I OUT:O
XI4 A net08 / inv_1b
XI3 C net10 / inv_1b
XI2 net12 net11 OUT / nand2
XI1 net10 A net11 / nand2
XI0 net08 C net12 / nand2
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    SECDED
* View Name:    schematic
************************************************************************

.SUBCKT SECDED A00 A01 A02 A03 a0 a1 a2 a3 c0 c1 c2 err p
*.PININFO a0:I a1:I a2:I a3:I c0:I c1:I c2:I p:I A00:O A01:O A02:O A03:O err:O
XI30 net026 net054 net030 net046 / or3
XI26 net020 net1 net054 / xor2
XI31 net020 net030 net040 / xor2
XI32 c0 p net038 / xor2
XI33 net038 net040 net053 / xor2
XI24 net7 net10 net026 / xor2
XI25 net4 net1 net030 / xor2
XI19 c1 a0 net020 / xor2
XI20 c0 a0 net10 / xor2
XI21 a3 a1 net7 / xor2
XI22 a1 c2 net4 / xor2
XI23 a2 a3 net1 / xor2
XI27 net026 net041 / inv_1b
XI28 net054 net037 / inv_1b
XI29 net030 net043 / inv_1b
XI34 net053 net047 / inv_1b
XI35 net047 net046 err / and2
XI36 net054 net026 net043 net052 / and3
XI37 net041 net054 net030 net051 / and3
XI38 net026 net037 net030 net050 / and3
XI39 net026 net054 net030 net049 / and3
XI40 a0 net052 A00 / mux
XI41 a1 net050 A01 / mux
XI42 a2 net051 A02 / mux
XI43 a3 net049 A03 / mux
.ENDS

