* File: and2.pex.netlist.pex
* Created: Fri Apr 29 16:43:25 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND2%NET1 4 6 9 10 12 14 17 29 30 35 50 53 55 56 57 59 60 63 68 71 73
c121 73 0 1.95454e-19
c122 68 0 5.20315e-19
c123 55 0 1.18087e-19
r124 68 75 25
r125 58 63 0.118087
r126 58 59 0.081146
r127 56 63 0.102983
r128 56 57 0.081146
r129 55 68 0.116582
r130 52 55 0.0479332
r131 52 53 0.898633
r132 51 60 0.0363272
r133 50 53 0.0479332
r134 50 51 0.657537
r135 47 71 30
r136 44 47 0.674397
r137 44 71 10
r138 41 44 1.01159
r139 41 71 10
r140 38 41 1.01159
r141 38 71 10
r142 35 38 1.01159
r143 35 59 0.598527
r144 35 71 10
r145 31 60 0.00944082
r146 31 57 0.0874363
r147 29 60 0.0363272
r148 29 30 0.212982
r149 27 73 10
r150 24 27 0.582909
r151 24 73 10
r152 21 24 0.582909
r153 21 73 10
r154 17 21 0.592624
r155 17 73 10
r156 15 30 0.0479332
r157 15 27 0.276882
r158 9 75 4.17508
r159 9 10 0.833027
r160 6 14 153.887
r161 5 10 5.18609
r162 5 6 16.0034
r163 4 10 5.18609
r164 3 12 69.9487
r165 3 4 16.0034
.ends

.subckt PM_AND2%GND! 1 2 9 24 27 37 43 44
c64 44 0 2.93662e-19
r65 30 44 10
r66 27 30 0.752952
r67 27 44 10
r68 25 37 0.0220114
r69 25 27 1.1739
r70 22 35 0.0238874
r71 22 24 0.0893794
r72 21 37 0.0238874
r73 21 24 0.250651
r74 18 43 10
r75 15 18 0.7517
r76 15 43 10
r77 12 15 0.582909
r78 12 43 10
r79 9 12 0.592624
r80 9 43 10
r81 7 35 0.0220114
r82 7 9 0.582909
r83 2 35 0.0238874
r84 2 4 0.30117
r85 1 37 15
r86 1 4 15
.ends

.subckt PM_AND2%OUT 3 11 26 29 32 34 36 37
r34 32 34 1.7
r35 28 32 0.102894
r36 28 29 0.0611101
r37 26 32 0.101697
r38 26 27 0.0611101
r39 23 36 15
r40 20 23 0.502386
r41 20 36 10
r42 17 20 0.752952
r43 17 36 10
r44 14 17 0.752952
r45 14 36 10
r46 11 14 0.752952
r47 11 29 0.444756
r48 11 36 10
r49 7 27 0.556258
r50 7 37 10
r51 3 7 0.752952
r52 3 37 10
.ends

.subckt PM_AND2%VDD! 1 4 19 26 44 47 66 71 72 73
c74 73 0 1.61049e-19
c75 72 0 1.85904e-19
c76 19 0 3.90378e-19
c77 1 0 1.83692e-19
r78 60 73 15
r79 57 60 0.502386
r80 57 73 10
r81 54 57 0.752952
r82 54 73 10
r83 51 54 0.752952
r84 51 73 10
r85 47 51 1.01328
r86 47 73 10
r87 45 66 0.026159
r88 45 60 1.62117
r89 42 64 0.0206178
r90 42 44 0.0715163
r91 41 66 0.0206178
r92 41 44 0.219538
r93 39 72 30
r94 36 39 0.501133
r95 36 72 10
r96 33 36 0.7517
r97 33 72 10
r98 30 33 0.7517
r99 30 72 10
r100 26 30 0.7517
r101 26 72 10
r102 24 64 0.026159
r103 24 39 0.507397
r104 20 22 0.0374213
r105 19 64 0.0206178
r106 19 22 0.32016
r107 17 71 30
r108 14 17 0.501133
r109 14 71 10
r110 11 14 0.7517
r111 11 71 10
r112 8 11 0.7517
r113 8 71 10
r114 4 8 0.7517
r115 4 71 10
r116 2 20 0.053567
r117 2 17 0.507397
r118 1 66 15
r119 1 22 15
.ends

.subckt PM_AND2%A 4 6 9 10 12 14 16 19 20
c50 19 0 1.95454e-19
c51 14 0 1.95189e-19
r52 20 23 25
r53 19 20 1.7
r54 16 19 0.0192925
r55 9 23 4.17508
r56 9 10 0.833027
r57 6 14 141.169
r58 5 10 5.18609
r59 5 6 16.0034
r60 4 10 5.18609
r61 3 12 129.829
r62 3 4 27.5556
.ends

.subckt PM_AND2%B 4 6 10 12 15 18 23
c54 18 0 1.85904e-19
c55 12 0 1.95189e-19
r56 20 23 5.42761
r57 15 23 25
r58 14 18 0.0192925
r59 14 15 1.7
r60 6 12 141.169
r61 5 20 3.12463
r62 5 6 16.0034
r63 4 20 3.12463
r64 3 10 129.829
r65 3 4 27.5556
.ends

